US04011230
As in Example 17, reaction of 2-chloro-β,5-dinitrostyrene with dimethylammonium dimethyldithiocarbamate in the presence of carbon disulfide gave 2-chloro-5-nitro-α-(nitromethyl)-benzyl dimethyldithiocarbamate melting at 120° C.-121° C. after recrystallization without heating from acetone-methanol solution.

reactant | 2-chloro-β,5-dinitrostyrene | ClC1=C(C=C[N+](=O)[O-])C=C(C=C1)[N+](=O)[O-] | C8H5ClN2O4
reactant | dimethylammonium dimethyldithiocarbamate | CN(C([S-])=S)C.C[NH2+]C
solvent | carbon disulfide | C(=S)=S | CS2
product | 2-chloro-5-nitro-α-(nitromethyl)-benzyl dimethyldithiocarbamate | CN(C(SC(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)C[N+](=O)[O-])=S)C | C11H12ClN3O4S2
